US05852191
To produce the above compound, in a two-neck 100 ml round bottom flask with a condenser and a stir bar, malononitrile (2.64 g, 40 mmol) was dissolved in absolute ethanol (40 ml). 2-amino thiophenol (log, 80 mmol) was slowly added to this solution under stirring. Under a nitrogen blanket, the reaction mixture was heated and refluxed for six hours. After cooling, the flask was refrigerated overnight. Pale green crystals of bis(2-benzothiazolyl) methane that formed were recovered, following vacuum filtration, washing with hexane and drying (yield: 82%). 2.82 g (10 mmol) of the bis(2-benzothiazolyl) methane was dissolved in chloroform (50 ml) in an erlenmeyer flask. Hydrobromic acid (10 mmol) in glacial acetic acid was added dropwise with gentle stirring. A canary yellow precipitate formed within minutes, causing thickening of the reaction mixture. Stirring was continued for one hour at room temperature. A fine yellow powder was recovered, following filtration and washing with ether. The yield was quantitative and the bis(2-benzothiazolyl) methane monohydrobromide product was sufficiently pure to be used in the next step.

reactant | malononitrile | 40 mmol, 2.64 g | C(CC#N)#N | C3H2N2
reactant | 2-amino thiophenol | 80 mmol | NC1=C(C=CC=C1)S | C6H7NS
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | bis(2-benzothiazolyl) methane | yield: 82% | S1C(=NC2=C1C=CC=C2)CC=2SC1=C(N2)C=CC=C1 | C15H10N2S2
